US07253196B2
Methanesulfonic acid 2-[2-(bicyclo[2.2.1]hept-2-ylamino)-5-(2-methanesulfonyloxy-ethyl)-4-oxo-4,5-dihydro-thiazol-5-yl]-ethyl ester
To a mixture of 2-(bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-hydroxyethyl)thiazol-4(5H)-one (280 mg, 0.94 mmol) and diisopropylethylamine (Aldrich, 412 mg, 3.19 mmol) in CH2Cl2 (5 mL) was added methanesulfonyl chloride (344 mg, 3.00 mmol, 3.2 eq), and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was then concentrated in vacuo to provide the title compound which was used without further purification. MS (ESI, pos. ion) m/z: 455 (M+H).

reactant | 2-(bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-hydroxyethyl)thiazol-4(5H)-one | 0.94 mmol, 280 mg | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)(CCO)CCO | C14H22N2O3S
reactant | diisopropylethylamine | 3.19 mmol, 412 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 3.00 mmol, 344 mg, 3.2 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-[2-(bicyclo[2.2.1]hept-2-ylamino)-5-(2-methanesulfonyloxy-ethyl)-4-oxo-4,5-dihydro-thiazol-5-yl]-ethyl ester | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)(CCOS(=O)(=O)C)CCOS(=O)(=O)C | C16H26N2O7S3
